US07795249B2
To a solution of 2-chloro-6-fluorobenzaldehyde (2.44 g, 15.4 mmol) in DMSO (20 mL) at 0° C. was added potassium hydroxide (2.23 g, 33.8 mmol) slowly. The reaction mixture was allowed to stir and warm to rt overnight and then diluted with water (65 mL). The mixture was acidified to pH<1 with conc. HCl. A white solid formed and was filtered, washed with water, and dried to give 2-chloro-6-hydroxybenzaldehyde (1.48 g, 61%). LCMS: (FA) ES-155.0.

reactant | 2-chloro-6-fluorobenzaldehyde | 15.4 mmol, 2.44 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | potassium hydroxide | 33.8 mmol, 2.23 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | water | 65 mL | O | H2O
product | 2-chloro-6-hydroxybenzaldehyde | 1.48 g, 61% | ClC1=C(C=O)C(=CC=C1)O | C7H5ClO2
